US05215982
A solution of methyllithium in diethyl ether (250 ml) was added to a solution of 1-carboxymethyl-5-triphenylmethylaminopyrazole (25.95 g) in tetrahydrofuran (400 ml) under ice-cooling and the mixture was stirred for hours at ambient temperature. The reaction mixture was added to a mixture of ice-cold water (500 ml) and diethyl ether (500 ml). The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-acetylmethyl-5-triphenylmethylaminopyrazole.

reactant | methyllithium | C[Li]
reactant | 1-carboxymethyl-5-triphenylmethylaminopyrazole | 25.95 g | C(=O)(O)CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-acetylmethyl-5-triphenylmethylaminopyrazole | C(C)(=O)CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N3O
